US04421550
3-Amino-1-methyl-5-methylthio-1H-1,2,4-triazole
At 0°, 6.5 grams of methyl hydrazine was added dropwise to a stirred suspension of 20.0 grams (0.137 mole) dimethyl cyanodithioimidocarbonate in 35 ml of acetonitrile. A yellow solution immediately formed after the addition followed by precipitation of a white solid. The ice bath was removed, and upon warming to room temperature a yellow solution formed which was stirred at room temperature overnight. After stirring overnight, a solid precipitated which was filtered, washed with cold acetonitrile, followed by 1-chlorobutane, yield 8.5 grams, m.p. 104°-109°. The literature [Journal of Organic Chemistry, 39, 1522 (1974)] reported a similar melting point of 103°-106° for the title compound, however, a different isomeric structure was assigned to the compound (5-amino-1-methyl-3-methylthio-1H-1,2,4-triazole). The assignment of 3-amino-1-methyl-5-methylthio-1H-1,2,4-triazole as the correct structure was verified by X-ray crystal structure analysis.

reactant | methyl hydrazine | 6.5 grams | CNN | CH6N2
reactant | dimethyl cyanodithioimidocarbonate | 0.137 mole, 20.0 grams | C(#N)N=C(SC)SC | C4H6N2S2
reactant | acetonitrile | 35 ml | C(C)#N | C2H3N
product | 3-Amino-1-methyl-5-methylthio-1H-1,2,4-triazole | NC1=NN(C(=N1)SC)C | C4H8N4S
